US07592456B2
A mixture of 2,6-dibromonaphthalene (12.49 g, 43.7 mmol), 2,4-difluorobenzeneboronic acid (3.44 g, 21.8 mmol), sodium carbonate (4.63 g, 45.7 mmol), palladium acetate (245 mg, 1.09 mmol) and tri-o-tolylphosphine (667 mg, 2.19 mmol) in water (15 mL) and ethylene glycol dimethyl ether (90 mL) was degassed and heated to 80° C. overnight. The cooled reaction mixture was partitioned between water and ethyl acetate. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4 and evaporated in vacuo. The residue was purified by flash column chromatography on silica, eluting with isohexane, to give 2-bromo-6-(2,4-difluorophenyl)naphthalene (1.24 g, contains 10% 2,6-dibromonaphthalene). 1H NMR (500 MHz, CDCl3) δ 8.04 (1H, s), 7.93 (1H, s), 7.82 (1H, d, J=8.5 Hz), 7.75 (1H, d, J=8.6 Hz), 7.62 (2H, dd, J=8.4, 31.8 Hz), 7.50 (1H, m), 7.04-6.91 (2H, m).

reactant | 2,6-dibromonaphthalene | 43.7 mmol, 12.49 g | BrC1=CC2=CC=C(C=C2C=C1)Br | C10H6Br2
reactant | 2,4-difluorobenzeneboronic acid | 21.8 mmol, 3.44 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 45.7 mmol, 4.63 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tri-o-tolylphosphine | 2.19 mmol, 667 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | water | 15 mL | O | H2O
solvent | ethylene glycol dimethyl ether | 90 mL | COCCOC | C4H10O2
catalyst | palladium acetate | 1.09 mmol, 245 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-bromo-6-(2,4-difluorophenyl)naphthalene | 1.24 g, 10% | BrC1=CC2=CC=C(C=C2C=C1)C1=C(C=C(C=C1)F)F | C16H9BrF2
